US08808703B2
Step 3: (15R,19R)-15-amino-19-(dodecyloxy)-14-oxo-4,7,10,21-tetraoxa-17-thia-13-azatritriacontan-1-oic acid
A solution of (15R,19R)-tert-butyl 15-amino-19-(dodecyloxy)-14-oxo-4,7,10,21-tetraoxa-17-thia-13-azatritriacontan-1-oate in 1:1 TFA/DCM (0.1 M) was stirred at 25° C. for 1 hour. The reaction mixture was concentrated en vaccuo. The crude mixture was purified by reverse phase high performance liquid chromatography (HPLC) with C4 column eluting with a gradient of 40-100% MeCN/10 mM NH4OAc (95:5) in 10 mM NH4OAc (pH 9) to give the title product as a white solid after lyophilizing. 1H NMR (DMSO-d6): δ 8.04 (t, 1H), 7.36 (s, 1H), 5.04 (d, 2H), 3.58 (t, 2H), 3.19-3.50 (m, 20H), 2.77 (dd, 2H), 2.59 (dd, 2H), 2.40 (t, 2H), 1.43-1.48 (m, 4H), 1.21-1.28 (m, 36H), 0.85 (t, 6H). LRMS [M+H]=735.6.

reactant | (15R,19R)-tert-butyl 15-amino-19-(dodecyloxy)-14-oxo-4,7,10,21-tetraoxa-17-thia-13-azatritriacontan-1-oate | N[C@H](C(NCCOCCOCCOCCC(=O)OC(C)(C)C)=O)CSC[C@@H](COCCCCCCCCCCCC)OCCCCCCCCCCCC | C43H86N2O8S
reactant | TFA DCM | 0.1 M | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | (15R,19R)-15-amino-19-(dodecyloxy)-14-oxo-4,7,10,21-tetraoxa-17-thia-13-azatritriacontan-1-oic acid | N[C@H](C(NCCOCCOCCOCCC(=O)O)=O)CSC[C@@H](COCCCCCCCCCCCC)OCCCCCCCCCCCC | C39H78N2O8S
